### PR TITLE
feat(Algebra/BigOperators/Group/Finset/Powerset): add nested powersetCard identities

### PR DESCRIPTION
**Pull request by bocowgill**
This PR adds product and sum identities for nested collections of fixed-cardinality subsets. For `r ≤ k`, each `r`-element subset of a finite set `s` is contained in exactly

`Nat.choose (s.card - r) (k - r)`

of the `k`-element subsets of `s`. Thus, a sum over the `r`-element subsets of every `k`-element subset reduces to this multiplicity, times a single sum over `s.powersetCard r`. The product version is the analogous power identity.

The proof exchanges the order of the two big operators using `Finset.prod_comm'`. It then counts each fiber with `Finset.card_filter_powersetCard_subset`. The additive identities are generated with `to_additive`. The PR also provides the useful elementwise specialization `r = 1`.

**Motivation**: These results provide reusable weighted double-counting tools for finite combinatorics. They are useful in arguments about uniform set systems, incidence relations, and sums or products over fixed-cardinality subsets.

---

### LLM disclosure

For theorem planning and Lean implementation, I used OpenAI Codex substantially. I also used Codex to search Mathlib and open PRs for related results, suggest naming and documentation, iterate on the proofs, audit import dependencies, and validate the commits locally.

I personally reviewed the mathematical statements and Lean code line-by-line, including the naming and API choices. I also confirmed that I can explain each step of the proofs.

For the current revision, I ran a targeted build of `Mathlib.Algebra.BigOperators.Group.Finset.Powerset`, the style and environment linters, and `git diff --check`. I also inspected the generated additive declarations and axiom dependencies, and tested an alternative proof using explicit incidence finsets. The complete GitHub CI suite passes.

This is one of my earliest Mathlib contributions. I welcome corrections and suggestions, and I am prepared to revise the PR and learn from the review.

### CODE REVIEW

**Comment by bocowgill** [comment]
LLM-generated

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 1]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+element of `s` is contained in exactly that many `k`-element subsets. -/
+@[to_additive
+/-- Sum `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this equals
+`Nat.choose (#s - 1) (k - 1)` times the sum over all elements of `s`. Indeed, each element of `s`
+is contained in exactly that many `k`-element subsets. -/]
+lemma prod_powersetCard_prod (k : ℕ) (s : Finset α) (f : α → β) (hk : 0 < k) :
+    ∏ t ∈ s.powersetCard k, ∏ x ∈ t, f x =
+      (∏ x ∈ s, f x) ^ ((s.card - 1).choose (k - 1)) := by
+  classical
+  simpa only [powersetCard_one, prod_map, Function.Embedding.coeFn_mk, prod_singleton] using
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: A tiny style note: Mathlib's convention about when to use `simp` vs. `simp only`  is about where this `simp` goes. If it's in the middle of a proof, a bare `simp` is discouraged because a future library change can quietly change the goal, which could make the next tactic fail. In this case we use `simp only` to have more control over the goal change. 

However at the end of a proof this no longer matters, and it's then more fragile to restrict to a set of lemmas (a future change could mean these lemmas no longer close the goal). So when `simp` closes the goal, `simp` is preferred over `simp only`.

You can therefore write:

```suggestion
  simpa [powersetCard_one] using
```

and you get the benefit that you can drop most lemmas inside the bracket that are already `@[simp]` lemmas.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 2]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+equals the product over all elements of `s`, raised to `Nat.choose (#s - 1) (k - 1)`. Indeed, each
+element of `s` is contained in exactly that many `k`-element subsets. -/
+@[to_additive
+/-- Sum `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this equals
+`Nat.choose (#s - 1) (k - 1)` times the sum over all elements of `s`. Indeed, each element of `s`
+is contained in exactly that many `k`-element subsets. -/]
+lemma prod_powersetCard_prod (k : ℕ) (s : Finset α) (f : α → β) (hk : 0 < k) :
+    ∏ t ∈ s.powersetCard k, ∏ x ∈ t, f x =
+      (∏ x ∈ s, f x) ^ ((s.card - 1).choose (k - 1)) := by
+  classical
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: I think you can drop `classical` here. You need it in the other proof because you use things that require deciding equality, but in this one it is not needed. If it checks without it (which for me it does), I think it's safe to delete it.


```suggestion
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 3]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+many `k`-element subsets of `s`. -/
+@[to_additive
+/-- Sum `f u` over all `r`-element subsets `u` of every `k`-element subset of `s`. If `r ≤ k`,
+this equals `Nat.choose (#s - r) (k - r)` times the sum over all `r`-element subsets of `s`.
+Indeed, each fixed `r`-element subset is contained in exactly that many `k`-element subsets of
+`s`. -/]
+lemma prod_powersetCard_prod_powersetCard (r k : ℕ) (s : Finset α) (f : Finset α → β)
+    (hrk : r ≤ k) :
+    ∏ t ∈ s.powersetCard k, ∏ u ∈ t.powersetCard r, f u =
+      (∏ u ∈ s.powersetCard r, f u) ^ ((s.card - r).choose (k - r)) := by
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: This file seems to use `#s` instead of `s.card` elsewhere. One common rule is to try to keep the style within the file you're editing consistent.

Another example of this that might be less important is using `powersetCard k s` instead of `s.powersetCard k`.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 4]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+/-- Multiply `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this
+equals the product over all elements of `s`, raised to `Nat.choose (#s - 1) (k - 1)`. Indeed, each
+element of `s` is contained in exactly that many `k`-element subsets. -/
+@[to_additive
+/-- Sum `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this equals
+`Nat.choose (#s - 1) (k - 1)` times the sum over all elements of `s`. Indeed, each element of `s`
+is contained in exactly that many `k`-element subsets. -/]
+lemma prod_powersetCard_prod (k : ℕ) (s : Finset α) (f : α → β) (hk : 0 < k) :
+    ∏ t ∈ s.powersetCard k, ∏ x ∈ t, f x =
+      (∏ x ∈ s, f x) ^ ((s.card - 1).choose (k - 1)) := by
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]:
```suggestion
    ∏ t ∈ s.powersetCard k, ∏ x ∈ t, f x = (∏ x ∈ s, f x) ^ ((#s - 1).choose (k - 1)) := by
```

This can fit into one line respecting the 100 charater limit (specially if you change `s.card` to `#s` as described above), so since it's the conclusion it's probably best to put it together.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 5]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
 
+/-- Multiply `f u` over all `r`-element subsets `u` of every `k`-element subset of `s`. If
+`r ≤ k`, this equals the product over all `r`-element subsets of `s`, raised to
+`Nat.choose (#s - r) (k - r)`. Indeed, each fixed `r`-element subset is contained in exactly that
+many `k`-element subsets of `s`. -/
+@[to_additive
+/-- Sum `f u` over all `r`-element subsets `u` of every `k`-element subset of `s`. If `r ≤ k`,
+this equals `Nat.choose (#s - r) (k - r)` times the sum over all `r`-element subsets of `s`.
+Indeed, each fixed `r`-element subset is contained in exactly that many `k`-element subsets of
+`s`. -/]
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: The docstrings are a bit longer than the rest of the file. Other docstrings use something more simple like "A product over ... is ...", they don't seem to mention simple hypothesis like `0 < k` and such and normally they don't give details about the proof.

I suggest here and below some shorter version but feel free to edit it as you're probably more comfortable with the topic itself than me.


```suggestion
/-- A product of `f` over the `r`-element subsets of each `k`-element subset of `s` is the product
of `f` over the `r`-element subsets of `s`, raised to `(#s - r).choose (k - r)`. -/
@[to_additive /-- A sum of `f` over the `r`-element subsets of each `k`-element subset of `s` is
`(#s - r).choose (k - r)` times the sum of `f` over the `r`-element subsets of `s`. -/]
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 6]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+    _ = (∏ u ∈ s.powersetCard r, f u) ^ ((s.card - r).choose (k - r)) := by
+      exact prod_pow _ _ _
+
+/-- Multiply `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this
+equals the product over all elements of `s`, raised to `Nat.choose (#s - 1) (k - 1)`. Indeed, each
+element of `s` is contained in exactly that many `k`-element subsets. -/
+@[to_additive
+/-- Sum `f x` over every element `x` of every `k`-element subset of `s`. If `0 < k`, this equals
+`Nat.choose (#s - 1) (k - 1)` times the sum over all elements of `s`. Indeed, each element of `s`
+is contained in exactly that many `k`-element subsets. -/]
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: Same as above.


```suggestion
/-- A product of `f` over the elements of each `k`-element subset of `s` is the product of `f` over
`s`, raised to `(#s - 1).choose (k - 1)`. -/
@[to_additive /-- A sum of `f` over the elements of each `k`-element subset of `s` is
`(#s - 1).choose (k - 1)` times the sum of `f` over `s`. -/]
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean [hunk 7]
```diff
@@ -63,4 +65,52 @@ lemma prod_powersetCard (n : ℕ) (s : Finset α) (f : ℕ → β) :
...
+        exact ⟨⟨hts, hut.1⟩, ⟨hut.1.trans hts.1, hut.2⟩⟩
+      · rintro ⟨⟨hts, hut⟩, hus⟩
+        exact ⟨hts, hut, hus.2⟩
+    _ = ∏ u ∈ s.powersetCard r, f u ^ ((s.card - r).choose (k - r)) := by
+      apply prod_congr rfl
+      intro u hu
+      obtain ⟨hus, rfl⟩ := mem_powersetCard.mp hu
+      rw [prod_const, card_filter_powersetCard_subset u s k hus hrk]
+    _ = (∏ u ∈ s.powersetCard r, f u) ^ ((s.card - r).choose (k - r)) := by
+      exact prod_pow _ _ _
```
Comment (pepamontero) [inline Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: This proof is correct as it is, but I did notice some calc steps could be done outside of the calc best and this would shorten the proof. In general I prefer not to use long calc blocks, but this might be a personal preference only. This is my suggestion for a shorter proof, but feel free to keep yours or use a mix of them.


```suggestion
  have h : ∀ t u : Finset α, t ∈ s.powersetCard k ∧ u ∈ t.powersetCard r ↔
      t ∈ {v ∈ s.powersetCard k | u ⊆ v} ∧ u ∈ s.powersetCard r := by grind
  rw [prod_comm' h, ← prod_pow]
  refine prod_congr rfl fun u hu ↦ ?_
  obtain ⟨hus, rfl⟩ := mem_powersetCard.mp hu
  rw [prod_const, card_filter_powersetCard_subset u s k hus hrk]
```

**Review by pepamontero — COMMENTED** [review]
Hi! This looks like a nice addition. I have left a couple of comments below (mostly about style) and included explanations for each suggestion. I am somewhat new to contributing as well, so these are things I recently learned myself. Hope it helps you! :)

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 1 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: changed to terminal `simpa [powersetCard_one].`

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 2 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: removed it.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 3 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: adopted both conventions throughout.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 4 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: reformatted as suggested.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 5 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: shortened to match the file.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 6 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: shortened likewise.

File: Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean (hunk 7 above)
Comment (bocowgill) [reply Mathlib/Algebra/BigOperators/Group/Finset/Powerset.lean]: adopted the shorter proof and validated it locally.

**Review by pepamontero — APPROVED** [review]
This looks good to me now, thanks!
